US04235621
2,3-Dichloro-5-trifluoromethyl pyridine was condensed with resorcine and the product was nitrated with a mixed acid of nitric acid and sulfuric acid to obtain 2-(3-hydroxy-4-nitrophenoxy)-3-chloro-5-trifluoromethyl pyridine. In 10 ml of methyl ethyl ketone, 1.67 g of the resulting product and 1.09 g of ethyl 2-bromopropionate were dissolved and then, 1.38 g of anhydrous potassium carbonate was admixed. The mixture was refluxed with stirring for 4 hours. After the reaction, a small amount of water was added to the reaction mixture. The solvent was distilled off and the product was extracted with methylene chloride. The extracted phase was washed with water and dried over anhydrous sodium sulfate. Methylene chloride was distilled off. The resulting oily product was adsorbed in a silica gel column and developed and eluted with toluene to obtain 0.8 g of the object compound (nD15 1.5337).

reactant | 2,3-Dichloro-5-trifluoromethyl pyridine | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | resorcine | C1=CC(=CC(=C1)O)O | C6H6O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(3-hydroxy-4-nitrophenoxy)-3-chloro-5-trifluoromethyl pyridine | OC=1C=C(OC2=NC=C(C=C2Cl)C(F)(F)F)C=CC1[N+](=O)[O-] | C12H6ClF3N2O4
